US07115750B1
N-[2-[(E)-(Dimethylamino)methylidene]-1-oxo-2,3-dihydro-1H-inden-5-yl]acetamide
Dimethylformamide dimethylacetal was added to 5-acetamido-1-indanone (2.5 g, 13.2 mmol), which was stirred at 100° C. for 3.5 hours, and cooled to room temperature. The precipitated crude products were collected, which was washed with ethyl acetate to give the titled compound (2.73 g).

reactant | Dimethylformamide dimethylacetal | COC(N(C)C)OC | C5H13NO2
reactant | 5-acetamido-1-indanone | 13.2 mmol, 2.5 g | C(C)(=O)NC=1C=C2CCC(C2=CC1)=O | C11H11NO2
product | N-[2-[(E)-(Dimethylamino)methylidene]-1-oxo-2,3-dihydro-1H-inden-5-yl]acetamide | 2.73 g | CN(C)\C=C/1\C(C2=CC=C(C=C2C1)NC(C)=O)=O | C14H16N2O2
